US09353096B2
In a 250 mL round-bottomed flask, 4-benzyl-2-(3-methoxyphenyl)morpholine (2.3 g, 8.12 mmol) and palladium hydroxide on carbon (285 mg, 406 μmol) were combined in methanol (15 ml). The suspension was stirred at room temperature under a balloon of hydrogen overnight. The system was evacuated with argon 3 times. The reaction mixture was filtered through Celite, and the filtercake washed several times with methanol. The combined filtrate and washes were concentrated in vacuo to afford 2-(3-methoxy-phenyl)-morpholine (0.88 g, 56%) which was directly used for next step. (M+H)+=194 m/e.

reactant | 4-benzyl-2-(3-methoxyphenyl)morpholine | 8.12 mmol, 2.3 g | C(C1=CC=CC=C1)N1CC(OCC1)C1=CC(=CC=C1)OC | C18H21NO2
reactant | hydrogen | [H][H] | H2
solvent | methanol | 15 ml | CO | CH4O
catalyst | palladium hydroxide on carbon | 406 μmol, 285 mg | [OH-].[OH-].[Pd+2]
product | 2-(3-methoxy-phenyl)-morpholine | 0.88 g, 56% | COC=1C=C(C=CC1)C1CNCCO1 | C11H15NO2
